US07915200B2
7. Preparation of 6-Amino-5-chloro-2-(4-chloro-2-fluorophenyl)pyrimidine-4-carboxylic acid (Compound 11)
6-Amino-5-chloro-2-(4-chloro-2-fluorophenyl)pyrimidine-4-carboxylic acid methyl ester (400 mg, 1.26 mmol) was dissolved in 10 mL methanol and 2 mL of 2N sodium hydroxide (4 mmol) was added. The reaction mixture was stirred at room temperature for 4 hours and then acidified with a slight excess of 2N HCl. The resulting solution was concentrated and the precipitate that formed was filtered, washed with water, and dried yielding the title compound (170 mg, 44% yield): mp 194-196° C.: 1H NMR (DMSO-d6+few drops of D2O): δ 7.92 (m, 1H), 7.54 (dd, 1H), 7.42 (dd, 1H).

reactant | 6-Amino-5-chloro-2-(4-chloro-2-fluorophenyl)pyrimidine-4-carboxylic acid methyl ester | 1.26 mmol, 400 mg | COC(=O)C1=NC(=NC(=C1Cl)N)C1=C(C=C(C=C1)Cl)F | C12H8Cl2FN3O2
reactant | sodium hydroxide | 4 mmol, 2N, 2 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 6-Amino-5-chloro-2-(4-chloro-2-fluorophenyl)pyrimidine-4-carboxylic acid | 170 mg, 44% yield | NC1=C(C(=NC(=N1)C1=C(C=C(C=C1)Cl)F)C(=O)O)Cl | C11H6Cl2FN3O2
